* C:\Users\Windows PC\Desktop\Badgerloop\git_repos\solar_car_hardware\MPPT\design\Simulation\solar_cell_boost_converter.asc
R1 N001 Array_out 0.010
D1 N001 0 DiodeSolarCell
L1 Array_out SW 150µH
M1 SW PWM_IN 0 0 BSC060N10NS3
D2 SW V_out D
V1 PWM_IN 0 PULSE(0 20 0 0 0 1.4e-5 2e-5 100000)
C2 Array_out 0 330µF
I1 0 N001 7A
R2 V_out 0 100
C1 V_out 0 50µF
.model D D
.lib C:\Users\Windows PC\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Windows PC\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 0.05 0
.model DiodeSolarCell D LEVEL=1 IS=8.0411e-10 N=72.2592 EG=80.2077 XTI=216.7776
* MPP for this solar model is at 37.7V, 6.5A load
.MEAS Pin  RMS V(Array_out)*I(R1)  FROM 20ms TO 40ms
.MEAS Iout RMS I(R2) FROM 20ms TO 40ms
.MEAS Pout AVG V(V_out)*Iout FROM 20ms TO 40ms
.MEAS PWR_Eff AVG Pout/Pin
.MEAS Ein INTEG Pin FROM 20ms TO 40ms
.MEAS Eout INTEG Pout FROM 20ms TO 40ms
.MEAS Eout2 INTEG V(V_out)*I(D2) FROM 20ms TO 40ms
* JOULES
* JOULES
* WATT
* WATT
.MEAS ENERGY_EFF_RMS  AVG Eout/Ein
* JOULES
.MEAS ENERGY_EFF_RAW  AVG Eout2/Ein
.backanno
.end
